US04073921
b) 2-cyano-2-(2,4-dichlorophenyl)-4-phenyl butan-1-ol
To an ice cold stirred solution of α-phenethyl-2,4-dichlorobenzyl cyanide (26.5g., 0.09 mole) in 200 ml. of pyridine containing a suspension of paraformaldehyde (11 g., 0.35 mole) is added 1 ml. of benzyl triethylammonium hydroxide. The mixture is stirred under nitrogen at room temperature for 24 hours. The reaction mixture is poured into 1 liter of water and extracted with ether. The combined ether extracts are washed with water, saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated to give 25.4g. of a thick oil, which is identified by nmr.

reactant | α-phenethyl-2,4-dichlorobenzyl cyanide | 0.09 mole, 26.5g | C(CC1=CC=CC=C1)C(C1=C(C=C(C=C1)Cl)Cl)C#N | C16H13Cl2N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | paraformaldehyde | 0.35 mole, 11 g | C=O | CH2O
reactant | benzyl triethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 1 liter | O | H2O
product | 2-cyano-2-(2,4-dichlorophenyl)-4-phenyl butan-1-ol | C(#N)C(CO)(CCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C17H15Cl2NO
